US06093732
N-[(4-Chlorophenyl)methyl]-8-fluoro-4,6-dihydroxy-3-quinoline-carboxamide
To a mixture of 10% Pd/C and 2.0 g of 3-fluoro-4-nitrophenol in 10 mL of tetrahydrofuran and 10 mL of methanol is added 4.817 g of ammonium formate. After the reaction stirred at room temperature for 1 h, it is filtered through celite and condensed. To the residue is then added 2.57 mL of diethylethoxymethylenemalonate and 10 mL xylene. The mixture is heated to 135 ° C. for 1 h with a Dean-Stark trap to remove formed ethanol. The reaction is cooled. The resulting solid is collected, washed with hexanes, and dried. The solid is then dissolved in 50 mL of diphenyl ether and heated to 250° C. for 3 h with a Dean-Stark trap to collect ethanol. The solution is cooled and diluted with hexanes. The resulting solid is collected and dried to yield 0.527 g. A solution of 0.415 g of that solid in 4 mL of 4-chlorobenzylamine is heated to 180° C. for 1 h. The solution is cooled and diluted with diethyl ether. The resulting solid is collected and recrystallized from acetone/hexanes to yield 0.226 g of the title compound as a tan solid.

reactant | 3-fluoro-4-nitrophenol | 2.0 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | ammonium formate | 4.817 g | C(=O)[O-].[NH4+]
reactant | 4-chlorobenzylamine | 4 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | Pd/C | [Pd] | Pd
product | N-[(4-Chlorophenyl)methyl]-8-fluoro-4,6-dihydroxy-3-quinoline-carboxamide | 0.226 g | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=C(C=C(C=C2C1O)O)F | C17H12ClFN2O3
